US06727264B1
N-[2-BROMO-4-(TRIFLUOROMETHOXY)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 using 2-methylpropanoyl chloride and 2-bromo-4-(trifluoromethoxy)aniline: ESMS m/e: 325.9 (M+H)+.

reactant | 2-methylpropanoyl chloride | CC(C(=O)Cl)C | C4H7ClO
reactant | 2-bromo-4-(trifluoromethoxy)aniline | BrC1=C(N)C=CC(=C1)OC(F)(F)F | C7H5BrF3NO
product | N-[2-BROMO-4-(TRIFLUOROMETHOXY)PHENYL]-2-METHYLPROPANAMIDE | BrC1=C(C=CC(=C1)OC(F)(F)F)NC(C(C)C)=O | C11H11BrF3NO2
